US05250735
A mixture of 190 ml of acetone and 36.0 g of sodium hydroxide in 600 ml of water was treated with 60.0 g of cyclopentanone under stirring. After stirring for about 12 hours at about room temperature, the mixture was neutralized with 36% acetic acid and extracted with three 60 ml portions of ether. The combined extracts were dried over anhydrous magnesium sulfate and evaporated to give a residue. The residue was distilled to obtain 62.6 g of 2-(1-methylethylidene) cyclopentanone as a colorless liquid. The boiling point of this intermediate compound was determined to be 85°-88° C. at a pressure of 10 mm Hg. A subsequent Mannich reaction yielded the 2-Dimethylaminomethyl-5-(1-methylethylidene) cyclopentanone hydrochloride. The melting point of the product was determined to be 173°-175° C.

reactant | acetone | 190 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 36.0 g | [OH-].[Na+]
reactant | cyclopentanone | 60.0 g | C1(CCCC1)=O | C5H8O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 600 ml | O | H2O
product | 2-(1-methylethylidene) cyclopentanone | 62.6 g | CC(C)=C1C(CCC1)=O | C8H12O
